US05739382
2-amino-5-bromo-3-iodobenzenesulphonyl chloride
To a solution containing 7.6 g (20 mmol) of 2-amino-5-bromo-3-iodobenzenesulphonic acid and 4.8 ml (20 mmol) of tributylamine in 20 ml of dichloromethane is added dropwise, at 0° C. under a nitrogen atmosphere, a solution of dichlorotriphenylphosphorane (9.7 g (37.5 mmol) in 45 ml of dichloromethane). The mixture is brought to room temperature, stirring is continued for 18 hours and the product is purified by chromatography on a column of silica gel, eluting with a dichloromethane/pentane mixture (2:8).

reactant | 2-amino-5-bromo-3-iodobenzenesulphonic acid | 20 mmol, 7.6 g | NC1=C(C=C(C=C1I)Br)S(=O)(=O)O | C6H5BrINO3S
reactant | tributylamine | 20 mmol, 4.8 ml | C(CCC)N(CCCC)CCCC | C12H27N
reactant | dichlorotriphenylphosphorane | 37.5 mmol, 45 ml, 9.7 g | ClP(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C18H15Cl2P
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-amino-5-bromo-3-iodobenzenesulphonyl chloride | NC1=C(C=C(C=C1I)Br)S(=O)(=O)Cl | C6H4BrClINO2S
